US07955664B2
1.4. 6-Fluoro-7-oxetan-3-yl-3-propylchroman
3.80 g (13.7 mmol) of 2-(6-fluoro-3-propylchroman-7-yl)propane-1,3-diol are dissolved in 70 ml of THF, and 8.7 ml (13.7 mmol) of a 15 percent solution of n-butyllithium in hexane are added at 0° C. After 30 min, 2.7 g (14.2 mmol) of p-toluenesulfonyl chloride in 30 ml of THF are added, and the mixture is stirred at RT for 1 h and re-cooled to 0° C. After addition of a further 8.7 ml (13.7 mmol) of a 15% solution of n-butyllithium in hexane, the cooling is removed, and the batch is heated under reflux for 4 h. The batch is subsequently diluted with MTB ether and washed with water. The org. phase is dried over sodium sulfate and evaporated, and the crude product is purified by chromatography on silica gel with heptane/ethyl acetate (3:2). The product fractions (Rf=0.5) are evaporated, and the product is used without further purification.

reactant | 2-(6-fluoro-3-propylchroman-7-yl)propane-1,3-diol | 13.7 mmol, 3.80 g | FC=1C=C2CC(COC2=CC1C(CO)CO)CCC | C15H21FO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | p-toluenesulfonyl chloride | 14.2 mmol, 2.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 6-Fluoro-7-oxetan-3-yl-3-propylchroman | FC=1C=C2CC(COC2=CC1C1COC1)CCC | C15H19FO2
